US04200641
A mixture of 12 parts of 1-(3-chloro-2-methylpropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 5.76 parts of 1-[bis(4-fluorophenyl)methyl]piperazine, 5.3 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated, yielding 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}-2-methylpropyl]-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one as an oily residue.

reactant | 1-(3-chloro-2-methylpropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCC(CN1C(N(C2=C1C=CC=C2)C(=C)C)=O)C | C14H17ClN2O
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}-2-methylpropyl]-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CN1C(N(C2=C1C=CC=C2)C(=C)C)=O)C)C2=CC=C(C=C2)F | C31H34F2N4O
